US06887996B2
Synthesis of 3-azaphenanthridone 18.
All of 2-[3-(2,2-dimethyl-propionylamino)-pyridin-4-yl]-N,N-diisopropylbenzamide from the previous step was carried on and dissolved in methanol (20 mL). Concentrated HCl (1 mL) was added, followed by 24 h of refluxing. A white solid which precipitated out of solution was filtered and dissolved in H2O. After 15 minutes of stirring, the free base crashed out of solution. The solid was filtered and dried, providing 150 mg (33% for two steps) of the desired final product as a white solid. Mp=303-309° C.; 1H NMR (DMSO-d6, 300 MHz) δ 8.70 (s, 1H), 8.60 (d, 1H), 8.41 (t, 2H), 8.31 (d, 1H), 7.95 (t, 1H), 7.80 (t, 1H); C12H8N2O.(0.3 H2O).(0.2 ClH). Anal: Calcd for: C, 68.99; H, 4.25; N, 13,41. Found: C, 68.83; H, 3.99; N, 13.26.

reactant | 2-[3-(2,2-dimethyl-propionylamino)-pyridin-4-yl]-N,N-diisopropylbenzamide | CC(C(=O)NC=1C=NC=CC1C1=C(C(=O)N(C(C)C)C(C)C)C=CC=C1)(C)C | C23H31N3O2
reactant | HCl | 1 mL | Cl | ClH
reactant | methanol | 20 mL | CO | CH4O
product | 3-azaphenanthridone | C1(CN=CC2=NC=C3C=CC=CC3=C12)=O | C12H8N2O
